US06727264B1
5-(3,5-DICHLOROPHENOXY)-N-(2-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}ETHYL)-3-FURAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(2-aminoethyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 5-(3,5-dichlorophenoxy)-3-furoyl chloride: ESMS m/e: 544.1 (M+H)+.

reactant | N-{3-[1-(2-aminoethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C17H27N3O
reactant | 5-(3,5-dichlorophenoxy)-3-furoyl chloride | ClC=1C=C(OC2=CC(=CO2)C(=O)Cl)C=C(C1)Cl | C11H5Cl3O3
solvent | THF | C1CCOC1 | C4H8O
product | 5-(3,5-DICHLOROPHENOXY)-N-(2-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}ETHYL)-3-FURAMIDE | ClC=1C=C(OC2=CC(=CO2)C(=O)NCCN2CCC(CC2)C2=CC(=CC=C2)NC(C(C)C)=O)C=C(C1)Cl | C28H31Cl2N3O4
